US06927221B2
3-((E)-1-[3-Methyl-1-(2,4,6-trichlorophenyl)-1H-5-pyrazolyl]aminoethylidene)tetrahydro-2-furanone
3-Amino-2-(2,4,6-trichlorophenyl)-5-methylpyrazole (1 g, 3.62 mmol) was dissolved in ethanol (10 mL). α-Acetyl-γ-butyrolactone (0.409 mL, 3.80 mmol) was added, followed by heating under reflux for two days. After ethanol was evaporated, the residue was purified by silica gel column chromatography (10% ethyl acetate/hexane), to give the title compound (700 mg, 1.80 mmol) as a pale yellow oil.

reactant | 3-Amino-2-(2,4,6-trichlorophenyl)-5-methylpyrazole | 3.62 mmol, 1 g | NC=1N(N=C(C1)C)C1=C(C=C(C=C1Cl)Cl)Cl | C10H8Cl3N3
reactant | α-Acetyl-γ-butyrolactone | 3.80 mmol, 0.409 mL | C(C)(=O)C1C(=O)OCC1 | C6H8O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-((E)-1-[3-Methyl-1-(2,4,6-trichlorophenyl)-1H-5-pyrazolyl]aminoethylidene)tetrahydro-2-furanone | 1.80 mmol, 700 mg | CC1=NN(C(=C1)N\C(\C)=C/1\C(OCC1)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C16H14Cl3N3O2
